US04474797
1-Methyl-3,4-dichloro-5-(2-chloroethylthio)pyrazole
To a stirred mixture of 48.4 g (0.213 moles) 1-methyl-3,4-dichloro-5-(2-hydroxyethylthio)pyrazole and 50 ml thionyl chloride in 200 ml methylene chloride, about 1 ml pyridine was added. The reaction mixture was heated at reflux for about 12 hours over 2 days time. The solvent was stripped, and the residue was taken up in ether. The etheral solution was washed 5 times with water and then dried over magnesium sulfate. Stripping of the ether gave 52.2 g of the product as a brown-red oil.

reactant | 1-methyl-3,4-dichloro-5-(2-hydroxyethylthio)pyrazole | 0.213 moles, 48.4 g | CN1N=C(C(=C1SCCO)Cl)Cl | C6H8Cl2N2OS
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | about 1 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 1-Methyl-3,4-dichloro-5-(2-chloroethylthio)pyrazole | 52.2 g | CN1N=C(C(=C1SCCCl)Cl)Cl | C6H7Cl3N2S
